US07517873B2
A mixture of 27.32 g (0.0767 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester (IV-38), 8.21 g of 5% palladium on carbon catalyst and 700 mL of ethyl acetate was stirred under an atmosphere of hydrogen until the reaction was complete. The resulting mixture was filtered through Celite, washing the filter pad with ethyl acetate, and the filtrate was concentrated under reduced pressure to give 25.33 g of 3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester (V-38) as a light brown oil.

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester | 0.0767 mole, 27.32 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(C)C)=O | C15H21ClN4O4
catalyst | palladium on carbon | 8.21 g | [Pd] | Pd
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dimethyl-propanoic acid methyl ester | 25.33 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1N)Cl)(C)C)=O | C15H23ClN4O2
